US06916819B2
1) Preparation of 6-Amino-4-chloro-2,N-dimethyl-5-nitropyrimidine
A solution of Methylamine (15.4 mL 1M in THF, diluted with 10 mL of hexane) is added dropwise to a solution of 4,6-Dichloro-2-methyl-5-nitropyrimidine (3.2 g, 15.4 mmol) in Hexane (30 mL). After addition, the reaction mixture is stirred at room temperature for one hour, and concentrated in vacuo to a solid. After the solid is dissolved in 50 mL of CH2Cl2, the resultant solution is washed with 0.1 N HCl (20 mL) and water (20 mL), dried over Na2SO4 and concentrated to a yellow solid. 1H NMR (CDCl3): δ 7.7 (bs, 1H), 3.10 (d, 3H), 2.55 (s, 3H).

reactant | Methylamine | 1M, 15.4 mL | CN | CH5N
reactant | 4,6-Dichloro-2-methyl-5-nitropyrimidine | 15.4 mmol, 3.2 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C | C5H3Cl2N3O2
solvent | Hexane | 30 mL | CCCCCC | C6H14
product | 6-Amino-4-chloro-2,N-dimethyl-5-nitropyrimidine | NC1=C(C(=NC(N1C)C)Cl)[N+](=O)[O-] | C6H9ClN4O2
